US07253162B2
Step A: 2,3-Dihydro-1H-pyrrolo[2,1-c][1,2,4]benzothiadiazin-7-ol 5,5-dioxide
A solution of BBr3 (68.75 mmol) in 25 ml of methylene chloride is added dropwise to a solution, cooled to 0° C., of 27.5 mmol of 7-methoxy-2,3-dihydro-1H-pyrrolo[2,1-c]-[1,2,4]benzothiadiazine 5,5-dioxide in 350 ml of methylene chloride. Stirring is carried out at ambient temperature for 24 hours. The reaction mixture is poured into a mixture of ice and water, and the suspension is stirred for 30 minutes. The precipitate is filtered off, rinsed several times with water, filtered under suction and dried in vacuo to yield the expected product.

reactant | BBr3 | 68.75 mmol | B(Br)(Br)Br | BBr3
reactant | 7-methoxy-2,3-dihydro-1H-pyrrolo[2,1-c]-[1,2,4]benzothiadiazine 5,5-dioxide | 27.5 mmol | COC1=CC2=C(N3C(=NS2(=O)=O)CCC3)C=C1 | C11H12N2O3S
reactant | water | O | H2O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | 2,3-Dihydro-1H-pyrrolo[2,1-c][1,2,4]benzothiadiazin-7-ol 5,5-dioxide | C1CCC2=NS(C3=C(N21)C=CC(=C3)O)(=O)=O | C10H10N2O3S
